US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-nitrophenyl)piperazine (Compound 82)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(4-nitrophenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 81%). 1H NMR (300 MHz, CDCl3): δ 3.57 (s, 4H), 3.75-3.87 (m, 6H), 4.09-4.16 (m, 4H), 6.84 (d, J=9.3 Hz, 2H), 6.91-7.27 (m, 3H), 7.56-7.63 (m, 1H), 8.16 (d, J=9.3 Hz, 2H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(4-nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-nitrophenyl)piperazine | 81% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])OC | C21H22N6O5
